US05750545
(2) 5-Amino-1-[5-hydroxypentylamino(thiocarbonyl)]-1H-1,2,4-triazole
The synthesis method of Example 1-(3) was applied. 3-Amino-1H-1,2,4-triazole (4.00 g), dimethylformamide (25 ml) and 5-hydroxypentyl isothiocyanate (9.24 g) were used as reagents. After the reaction, silica gel column chromatography (chloroform-methanol) was applied to give 2.06 g of white crystals (yield 19%). The crystals were subjected to recrystallization from chloroform to give white crystals.

reactant | 3-Amino-1H-1,2,4-triazole | 4.00 g | NC1=NNC=N1 | C2H4N4
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
reactant | 5-hydroxypentyl isothiocyanate | 9.24 g | OCCCCCN=C=S | C6H11NOS
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 5-Amino-1-[5-hydroxypentylamino(thiocarbonyl)]-1H-1,2,4-triazole | 2.06 g, yield 19% | NC1=NC=NN1C(=S)NCCCCCO | C8H15N5OS
